US05366991
Preparation of N- [3-chloro-4-(2-trifluoromethoxy-1,1,2-trifluoroethoxy)benzyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide (Compound No. 1)
A mixture consisting of 2 ml of methylene chloride, 0.11 ml of triethylamine and 250 mg of 3-chloro-4-((2-trifluoromethoxy-1,1,2-trifluoroethoxy)-benzylamine (0.77 moles) is slowly added dropwise to a solution of 166 mg (0.8 mmoles) of 4-chloro-3-ethyl-1-methyl-5-pyrazolecarboxylic acid chloride in 3 ml of methylene chloride. The solution obtained is maintained under agitation at ambient temperature for 5 hours.

reactant | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | (2-trifluoromethoxy-1,1,2-trifluoroethoxy)-benzylamine | 0.77 moles | FC(OC(C(ONCC1=CC=CC=C1)(F)F)F)(F)F | C10H9F6NO2
reactant | 4-chloro-3-ethyl-1-methyl-5-pyrazolecarboxylic acid chloride | 0.8 mmoles, 166 mg | ClC=1C(=NN(C1C(=O)Cl)C)CC | C7H8Cl2N2O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N- [3-chloro-4-(2-trifluoromethoxy-1,1,2-trifluoroethoxy)benzyl]-4-chloro-3-ethyl-1-methylpyrazole-5-carboxamide | ClC=1C=C(CNC(=O)C2=C(C(=NN2C)CC)Cl)C=CC1OC(C(F)OC(F)(F)F)(F)F | C17H15Cl2F6N3O3
